US04831139
A solution of 70 g of sodium nitrite in 120 g of water was added dropwise at room temperature to a suspension of 66 g of malononitrile and 96 g of guanidine hydrochloride in 200 g of water, and the pH was kept at 4 by the addition of hydrochloric acid. After the reaction had continued for 4 hours at room temperature, 21 g of sodium carbonate and 400 g of dimethylformamide were added. The water was distilled off under reduced pressure. Thereafter, the reaction mixture was heated at 140° C. for 1 hour, isomerization to 5-nitroso-2,4,6-triamino-pyrimidine taking place. After the reaction was complete, 400 ml of water were added, and the product was filtered off and washed with water. After the product had been dried, 140 g of a pure raspberry-red 5-nitroso-2,4,6-triaminopyrimidine were obtained. The melting point of the product was above 340° C. and the yield was 91 percent.

reactant | sodium nitrite | 70 g | N(=O)[O-].[Na+]
reactant | malononitrile | 66 g | C(CC#N)#N | C3H2N2
reactant | guanidine hydrochloride | 96 g | Cl.NC(=N)N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | 21 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 120 g | O | H2O
solvent | water | 200 g | O | H2O
solvent | dimethylformamide | 400 g | CN(C=O)C | C3H7NO
product | 5-nitroso-2,4,6-triaminopyrimidine | 140 g, yield was 91 percent | N(=O)C=1C(=NC(=NC1N)N)N | C4H6N6O
